US06933304B2
2,4-Dioxo-3-oxa-9-aza-spiro[5.5]undecane-9-carboxylic acid tert-butyl ester
The oil, polystyrene bound diisopropylethylamine, di-t-butyl dicarbonate and dichloromethane were combined and stirred for 18 hours. The solution was filtered and concentrated to yield an oil. The oil, 4 M NaOH, and methanol were combined and stirred overnight. The solution was acidified with 1M HCl and extracted with ethyl acetate. The organic layer was dried with magnesium sulfate and concentrated to yield an oil. The oil and acetic anhydride were combined, heated (130° C.) and stirred for 18 hours. The solution was concentrated to yield product.

reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | di-t-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 4 M | [OH-].[Na+]
reactant | HCl | 1M | Cl | ClH
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2,4-Dioxo-3-oxa-9-aza-spiro[5.5]undecane-9-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2(CC(OC(C2)=O)=O)CC1 | C14H21NO5
